US04775671
A mixture of 1.51 g (5 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde, 1.07 g (5.5 mmol) of toluene-4-sulphonylmethyl isocyanide, 1 g of powdered potassium carbonate and 20 ml of methanol is heated to boiling under reflux for 2 hours. The mixture is then evaporated to a volume of 5 ml and the material obtained is chromatographed on silica gel while eluting with ethyl acetate/methanol (9:1). After recrystallization from ethyl acetate there is obtained (S)-8-chloro-11,12,13,13a-tetrahydro-1-(5-oxazolyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 201°-202°.

reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde | 5 mmol, 1.51 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=O)CCC1)=O | C15H12ClN3O2
reactant | toluene-4-sulphonylmethyl isocyanide | 5.5 mmol, 1.07 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | (S)-8-chloro-11,12,13,13a-tetrahydro-1-(5-oxazolyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=CN=CO3)CCC1)=O | C17H13ClN4O2
